US07589206B2
1-[7-(2-Methoxy-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone hydrochloride salt
A mixture of 7-chloro-3-methyl-4-(1-morpholin-4-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester (120 mg), o-anisidine (71 ul), and methanesulfonic acid (41 μl) in 1,4-dioxane (2 ml) was heated under microwave conditions at 180° C. for 30 minutes. The solid mass obtained was dissolved in methanol, transferred to a round bottom flask and evaporated. The residue was dissolved in dichloromethane (40 ml) and washed with 5% sodium hydrogen carbonate solution (2×10 ml) and water (2×10 ml). The organic layer was dried (MgSO4) and evaporated to give a brown oil. The residue was purified by Biotage chromatography over silica gel (9 g), eluting with hexane followed by 25% ethyl acetate/hexane followed by 50% ethyl acetate/hexane. The residue was dissolved in ethyl acetate (10 ml) and treated with a solution of 1M hydrochloric acid in diethyl ether (10 drops). The resultant solid precipitate was then filtered off, sucked dry then dried at 40° C. under vacuum to afford the title compound (56 mg).

reactant | 7-chloro-3-methyl-4-(1-morpholin-4-yl-methanoyl)-pyrrolo[2,3-c]pyridine-1-carboxylic acid tert-butyl ester | 120 mg | C(C)(C)(C)OC(=O)N1C=C(C=2C1=C(N=CC2C(=O)N2CCOCC2)Cl)C | C18H22ClN3O4
reactant | o-anisidine | 71 ul | COC=1C(=CC=CC1)N | C7H9NO
reactant | methanesulfonic acid | 41 μl | CS(=O)(=O)O | CH4O3S
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 1-[7-(2-Methoxy-phenylamino)-3-methyl-1H-pyrrolo[2,3-c]pyridin-4-yl]-1-morpholin-4-yl-methanone hydrochloride salt | 56 mg | Cl.COC1=C(C=CC=C1)NC=1N=CC(=C2C1NC=C2C)C(=O)N2CCOCC2 | InChI=1S/C20H22N4O3.ClH/c1-13-11-21-18-17(13)14(20(25)24-7-9-27-10-8-24)12-22-19(18)23-15-5-3-4-6-16(15)26-2;/h3-6,11-12,21H,7-10H2,1-2H3,(H,22,23);1H
